US04550166
3-Methyl-8-(2-pyridinyl)-1,2,4-triazolo[4,3-a]pyridine
A mixture of 0.5 g of 2'-chloro-2,3'-bipyridine, 5 ml of anhydrous hydrazine and 50 ml of dry pyridine was refluxed for 24 hours, then concentrated under vacuum and the residue dissolved in methylene chloride. The solution was dried and passed through a short pad of hydrous magnesium silicate. The filtrate was concentrated under vacuum to a gum which is 2'-hydrazino-2,3'-bipyridine. To this gum was added 50 ml of triethyl orthoacetate, the mixture was heated on a steam bath for 2.5 hours and concentrated under vacuum. The residue was dissolved in methylene chloride and while boiling, hexane was added. Cooling gave crystals which were recrystallized from methylene chloride-hexane, giving the desired product, mp 142°-143° C.

reactant | 2'-chloro-2,3'-bipyridine | 0.5 g | ClC1=NC=CC=C1C1=NC=CC=C1 | C10H7ClN2
reactant | hydrazine | 5 ml | NN | H4N2
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-Methyl-8-(2-pyridinyl)-1,2,4-triazolo[4,3-a]pyridine | CC1=NN=C2N1C=CC=C2C2=NC=CC=C2 | C12H10N4
